US06444685B1
[Cyclopropylmethyl-(4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-amino]-acetic Acid
To a stirred solution of 0.15 9 (0.24 mmol) of [cyclopropylmethyl-(4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-amino]-acetic acid ethyl ester ( ) in 2 mL of ethanol, 0.1 g (2.4 mmol) of lithium hydroxide monohydrate in 2 ml of water was added dropwise over 10 minutes. After 20 minutes, the reaction mixture was quenched with .13 ml (2.4 mmol) of glacial acetic acid. The solvent was removed in vacuo and the pink aqueous residue was pipetted out of the flask. The solid was then washed with water and ethyl acetate and then dried via vacuum line to give 0.134 g of the title compound as a tan solid; 1H NMR (DMSO) δ 0.82 (m, 1H), 1.41 (m, 2H), 1.85-1.97 (m, 2H), 2.68-2.82 (m, 8H), 2.92 (s, 3H), 3.04 (d, J=6.84 Hz, 2H), 3.30 (m, 5H), 3.76 (m, 4H), 4.58 (m, 1H), 6.83 (d, J=8.25 Hz, 1H), 6.94-7.05 (m, 3H), 7.18 (d, J=1.86 Hz, 1H), 7.60 (d, J=8.88 Hz, 2H); MS (ES) m/z 597.1 (MH+); HRMS (MH−) for C26H36N4O8S2: 595.1904.

reactant | [cyclopropylmethyl-(4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-amino]-acetic acid ethyl ester | C(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)CC1CC1)=O | C28H40N4O8S2
reactant | lithium hydroxide monohydrate | 2.4 mmol, 0.1 g | O.[OH-].[Li+]
reactant | acetic acid | 2.4 mmol, .13 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | [Cyclopropylmethyl-(4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-amino]-acetic Acid | 0.134 g | C1(CC1)CN(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)CC(=O)O | C26H36N4O8S2
